US04709068
To 5.30 g (0.0215 mole) of 3-(4-fluoro-3-phenoxyphenyl)-1-propanol in 18 ml of dry acetonitrile was added first 3.5 g (0.022 mole) of 1,1'-carbonyldiimidazole and then 13.0 g (0.107 mole) of allyl bromide. After stirring at room temperature for 1.5 hours the reaction mixture was heated at gentle reflux for two hours. The reaction mixture was poured into water, and this mixture was extracted twice with diethyl ether. The combined extracts were washed successively with 10% hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, an aqueous solution of sodium thiosulfate, water, and a saturated aqueous solution of sodium chloride. The organic solution was dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure, leaving an oil as a residue. The residue was dissolved in approximately 50 ml of hexane and the solution was filtered through a pad of silica gel. Evaporation of the solvent from the filtrate yielded 4.4 g of 1-bromo-3-(4-fluoro-3-phenoxyphenyl)propane as a colorless oil.

reactant | 3-(4-fluoro-3-phenoxyphenyl)-1-propanol | 0.0215 mole, 5.30 g | FC1=C(C=C(C=C1)CCCO)OC1=CC=CC=C1 | C15H15FO2
reactant | 1,1'-carbonyldiimidazole | 0.022 mole, 3.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | allyl bromide | 0.107 mole, 13.0 g | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
solvent | hexane | approximately 50 ml | CCCCCC | C6H14
product | 1-bromo-3-(4-fluoro-3-phenoxyphenyl)propane | 4.4 g | BrCCCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C15H14BrFO
